US07704995B2
To a slurry of sodium borohydride (0.22 g, 5.86 mmol) in methanol (6mL) at 0° C. was added a solution of 5-(2-thienyl)-2,3-dihydro-1H-inden-1-one (0.50 g, 2.34 mmol ) in methanol (2 mL). The reaction was slowly warmed to room temperature and stirred until the reaction was completed as monitored by thin layer chromatography (4 h). The reaction mixture was carefully quenched with 1.0 N aqueous hydrochloric acid at 0° C. until a clear solution was obtained. Diluted with ethyl acetate (200 mL), washed with saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride (brine), and dried over anhydrous magnesium sulfate. Filtration, concentration and column chromatography on silica (7:3 hexanes/ethyl acetate) gave 5-(2-thienyl)-2,3-dihydro-1H-inden-1-ol (0.30 g, 59% yield) as solid. 1H NMR (400 MHz, CDCl3): 7.48 (m, 2H), 7.38 (br d, 1H), 7.26 (m, 2H), 7.08 (dd, 1H), 5.21 (t, 1H), 3.04 (m, 1H), 2.80 (m, 1H), 2.50 (m, 1H), 2.10 (brs, 1H), 1.93 (m, 1H).

reactant | sodium borohydride | 5.86 mmol, 0.22 g | [BH4-].[Na+]
reactant | 5-(2-thienyl)-2,3-dihydro-1H-inden-1-one | 2.34 mmol, 0.50 g | S1C(=CC=C1)C=1C=C2CCC(C2=CC1)=O | C13H10OS
solvent | methanol | 6mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-(2-thienyl)-2,3-dihydro-1H-inden-1-ol | 0.30 g, 59% yield | S1C(=CC=C1)C=1C=C2CCC(C2=CC1)O | C13H12OS
